US07659324B2
Analogously to L. Angiolini et al., 2000, Macromol. Chem. Phys. 201, 2646, a mixture of 10 mmol (1.82 g) of 10-hydroxycamphorquinone, 10 mg of 2,6-di-tert.butyl-4-methylphenol (inhibitor), 1.5 ml of dry triethylamine (TEA) and 50 ml of absolute 1,4-dioxane, under argon and with exclusion of daylight, was added dropwise at 0° C. to a stirred solution of 11 mmol (1.15 g) of methacrylic acid chloride, dissolved in 20 ml of 1,4-dioxane. There followed stirring for 2 h at room temperature and 2 h under reflux. The reaction mixture was filtered off from the formed TEA-HCl, diluted with diethyl ether, washed with 5% sodium bicarbonate solution and with water. After drying over anhydrous Na2SO4 the solution was concentrated to dryness in a rotary evaporator and the solid crude product recrystallized from toluene/n-hexane (20:80 v/v). 1.55 g (62% of the theory) of yellow crystals of 10-methacryloyloxycamphorquinone MACQ was obtained.

reactant | 10-hydroxycamphorquinone | 10 mmol, 1.82 g | OCC12C(=O)C(=O)C(CC1)C2(C)C | C10H14O3
reactant | 2,6-di-tert.butyl-4-methylphenol | 10 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | methacrylic acid chloride | 11 mmol, 1.15 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 10-methacryloyloxycamphorquinone | C(C(=C)C)(=O)OCC12C(=O)C(=O)C(CC1)C2(C)C | C14H18O4
